US06515023B2
To a solution of 0.89 g (3 mmol) triphosgene in 10 ml CH2Cl2 was added a solution of 2.0 g (8 mmol) 4-aminobenzylamine, tertbutylcarbamate and 1.69 ml (9.7 mmol) diisopropylethylamine in 25 ml CH2Cl2 dropwise over 1 hour. After the addition was complete, a solution of 1.79 g (8 mmol) 2-isopropylamino-1-(3,4-dichlorophenyl)-ethanol and 1.69 ml (9.7 mmol) diisopropylethylamine in 25 ml CH2Cl2 was added over 5 min. The reaction mixture was stirred for 10 min. diluted with 200 ml EtOAc, washed with 200 ml each of saturated aqueous NaHCO3, water, and brine, then dried over Na2SO4 , filtered and concentrated. Purification by flash chromatography (50% EtOAc/hexanes) provided 4 g (4-{3-[2-(3,4-Dichloro-phenyl)-2-hydroxy-ethyl]-3-isopropyl-ureido}-benzyl)-carbamic acid tert-butyl ester. 1H NMR (300 mHz, CDCl3) 8.85 (br s, 1H); 7.45 (m, 2H); 7.3-7.0 (m, 5H); 5.82 (s, 1H); 5.12 (br s, 1H); 4.7 (d, 1H, J=8 Hz); 4.4-4.15 (m, 3H); 3.42 (dd, 1H, J=16 and 8 Hz); 3.1 (d, 1H, J=16 Hz); 1.4 (s, 9H); 1.9 (d, 3H, J=7 Hz); 1.07 (d, 3H, J=7 Hz).

reactant | triphosgene | 3 mmol, 0.89 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-aminobenzylamine | 8 mmol, 2.0 g | NC1=CC=C(CN)C=C1 | C7H10N2
reactant | tertbutylcarbamate | C(C)(C)(C)NC([O-])=O
reactant | diisopropylethylamine | 9.7 mmol, 1.69 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-isopropylamino-1-(3,4-dichlorophenyl)-ethanol | 8 mmol, 1.79 g | C(C)(C)NCC(O)C1=CC(=C(C=C1)Cl)Cl | C11H15Cl2NO
reactant | diisopropylethylamine | 9.7 mmol, 1.69 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 200 ml | CCOC(=O)C | C4H8O2
product | (4-{3-[2-(3,4-Dichloro-phenyl)-2-hydroxy-ethyl]-3-isopropyl-ureido}-benzyl)-carbamic acid tert-butyl ester | 4 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)NC(=O)N(C(C)C)CC(O)C1=CC(=C(C=C1)Cl)Cl)=O | C24H31Cl2N3O4
